US09227933B2
(S)-3-((R)-2-Ethyl-1-hydroxybutyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
(S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester (0.8 g, 3.8 mmol;) and THF (8 mL, 90 mmol) were combined under nitrogen, and the resulting solution was cooled to −78° C. 2M 3-Pentylmagnesium bromide in ether (4.70 mL, 9.4 mmol) was then added dropwise over 1 hour. The mixture was allowed to warm to room temperature slowly overnight. Then aqueous saturated NH4Cl (5 mL) was added dropwise to quench the reaction. The resulting mixture was extracted with EtOAc (2×25 mL), and the combined organic layers were washed with saturated aqueous NaHCO3 (25 mL) and saturated aqueous NaCl (25 mL), then dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (5-25% EtOAc in Hexanes) to yield the following as clear oils:

reactant | (S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester | 3.8 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C=O | C10H17NO3
reactant | THF | 90 mmol, 8 mL | C1CCOC1 | C4H8O
reactant | 3-Pentylmagnesium bromide | 2M | CCC(CC)[Mg]Br
reactant | ether | 9.4 mmol, 4.70 mL | CCOCC | C4H10O
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
product | (S)-3-((R)-2-Ethyl-1-hydroxybutyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](C(CC)CC)O | C15H29NO3
